US08222416B2
To a solution of 1-(1-benzenesulfonyl-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone (130 mg, 0.29 mmol) in anhydrous tetrahydrofuran (30 mL) at −78° C. under a nitrogen atmosphere was added a solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (1 M, 0.44 mL, 0.44 mmol) dropwise. After stirring at −78° C. for 1 h, a solution of p-toluenesulfonic anhydride (170 mg, 0.52 mmol) in tetrahydrofuran (2 mL) was added dropwise. The resulting mixture was stirred at −78° C. for an additional 1.5 h. The reaction was quenched with water, extracted with ethyl acetate (20 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (silica gel from QingDao, 200-300 mesh, 25% ethyl acetate/hexanes) afforded toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester (80 mg, 46%) as a light yellow solid: LC/MS m/e calcd for C29H30N2O6S3 [M+H]+ 599.76, observed 599.0.

reactant | 1-(1-benzenesulfonyl-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone | 0.29 mmol, 130 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)S(=O)CC)C(CC2CCCC2)=O | C22H24N2O4S2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 0.52 mmol, 170 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.44 mmol, 1 M, 0.44 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-ethanesulfinyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester | 80 mg, 46% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)S(=O)CC)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C29H30N2O6S3
